US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-methoxyethyl)benzenesulfonamide
A mixture of N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-methoxyethyl)-4-nitrobenzenesulfonamide (1 g, crude, 2.5 mmol) and Pd/C (0.2 g, 10%) in MeOH (50 mL) was stirred under 50 PSI H2 at room temperature for 2 hrs. The mixture was filtered and the filtrate was concentrated. The residue was purified by prep-HPLC (column: Luna 300×50.0 mm, 10 um; liquid phase: [A-H2O+0.05% TFA; B-MeCN] B %: 5%-35%, 23 min), concentrated, acidified with HCl and freeze-dried to give the title compound (0.3 g, yield 32%) as HCl salt. 1H NMR: 400 MHz DMSO-d6 δ10.01 (s, 1H), 7.56-7.54 (m, 1H), 7.40-7.39 (m, 1H), 7.21-7.18 (m, 1H), 7.11-7.09 (m, 1H), 6.48-6.40 (m, 2H), 4.83 (s, 2H), 3.49-3.45 (m, 2H), 3.21 (s, 3H), 3.06-3.03 (m, 2H).

reactant | N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-methoxyethyl)-4-nitrobenzenesulfonamide | 2.5 mmol, 1 g | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])CCOC | C16H17BN2O7S
reactant | HCl | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-methoxyethyl)benzenesulfonamide | 0.3 g, yield 32% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCOC | C16H19BN2O5S
